US09035053B2
A suspension of tert-butyl tert-butoxycarbonyl(3-(3-(4-(((tert-butoxycarbonyl)(tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl)isoxazol-5-yl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)carbamate (A-6) (410 g; 492 mmol) in CH2Cl2 (410 mL) is stirred at ambient temperature in a flask. TFA (841 g, 568 mL; 7.4 mol) is added while maintaining the reaction temperature between 20-25° C. The solution is stirred at ambient temperature for about 3 h when analysis shows reaction completion. The solution is cooled to about 5-10° C. and diluted with EtOH (3.3 L) while maintaining the temperature below 20° C. A 5.0 M aqueous solution of NaOH (1.77 L; 8.85 mol) is added while allowing the reaction temperature to rise from about 14° C. to about 42° C. The suspension is heated at 70-75° C. for 6 h while removing distillate. The suspension is allowed to cool to ambient temperature. The solid is collected by filtration and the filter-cake is washed with water (4×1.64 L). The filter-cake is washed with EtOH (2×820 mL) and dried to afford 5-(4-(isopropylsulfonyl)phenyl)-3-(3-(4-(((tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl) isoxazol-5-yl)pyrazin-2-amine (Compound I-1) (257 g; 98% yield, 99.5 area % purity by HPLC) as a yellow powder.

reactant | tert-butyl tert-butoxycarbonyl(3-(3-(4-(((tert-butoxycarbonyl)(tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl)isoxazol-5-yl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)carbamate | 492 mmol, 410 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C1=CC(=NO1)C1=CC=C(C=C1)CN(C1CCOCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C43H55N5O10S
reactant | TFA | 7.4 mol, 568 mL, 841 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 8.85 mol, 1.77 L | [OH-].[Na+]
solvent | CH2Cl2 | 410 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 3.3 L | CCO | C2H6O
product | 5-(4-(isopropylsulfonyl)phenyl)-3-(3-(4-(((tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl) isoxazol-5-yl)pyrazin-2-amine | 257 g, 98% yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1N=C(C(=NC1)N)C1=CC(=NO1)C1=CC=C(C=C1)CNC1CCOCC1 | C28H31N5O4S
